US20010056123A1
Step 1: Synthesis of benzyl (3R)-3-t-butoxycarbonylamino-4-(5-cyano-2-benzyloxyphenoxy)butanoate:
4.8 g (15.5 mmol) of benzyl (3R)-3-t-butoxycarbonylamino-4-hydroxybutanoate was dissolved in 100 ml of tetrahydrofuran. 2.9 g (12.9 mmol) of 4-benzyloxy-3-hydroxybenzonitrile, 4.1 g (15.5 mmol) of triphenylphosphine and 6.7 g (15.5 mmol) of diethyl azodicarboxylate were added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl (3R)-3-t-butoxycarbonylamino-4-hydroxybutanoate | 15.5 mmol, 4.8 g | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)CO | C16H23NO5
reactant | 4-benzyloxy-3-hydroxybenzonitrile | 12.9 mmol, 2.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)O | C14H11NO2
reactant | triphenylphosphine | 15.5 mmol, 4.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 15.5 mmol, 6.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (3R)-3-t-butoxycarbonylamino-4-(5-cyano-2-benzyloxyphenoxy)butanoate | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OCC1=CC=CC=C1)COC1=C(C=CC(=C1)C#N)OCC1=CC=CC=C1 | C30H32N2O6
